US07897597B2
The general method described in Example 5 was followed using 8-benzyloxy-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.47 g, 1.4 mmol), prepared as described in Example 57, in lieu of 7-benzyloxy-2-propyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine. The hydrogenation was complete in four hours, and after the catalyst was removed by filtration, the filtrate was concentrated under reduced pressure to a small volume. Hexanes were added, and a precipitate formed, which was isolated by filtration and washed with hexanes. The solid was recrystallized from methanol to provide 70 mg of 4-amino-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol as a white, crystalline solid, mp>240° C.

reactant | 8-benzyloxy-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.4 mmol, 0.47 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3C)CC | C20H20N4O
reactant | 7-benzyloxy-2-propyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C24H28N4O
product | 4-amino-2-ethyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol | 70 mg | NC1=NC=2C=CC(=CC2C2=C1N=C(N2C)CC)O | C13H14N4O
